US04075001
A solution of 9.6 g of 3-amino-2-cyano-3-(dipropylamino)propenethioamide in 50 ml of ethanol was heated to reflux temperature and 5 ml of 30% hydrogen peroxide (1.4 g H2O2) were added at such a rate as to maintain reflux. After complete addition the reaction mixture was heated under reflux during 10 minutes. To the reaction mixture was added 40 ml of water, which was then allowed to cool to ambient temperature. The solid precipitate was collected by filtration, and recrystallized from acetonitrile-water, to give 7.0 g of 5-amino-4-cyano-3-(dipropylamino)isothiazole; m.p. 136°-138°. The nmr and ir spectra were consistent with the assigned structure.

reactant | 3-amino-2-cyano-3-(dipropylamino)propenethioamide | 9.6 g | NC(=C(C(N)=S)C#N)N(CCC)CCC | C10H18N4S
reactant | hydrogen peroxide | 5 ml, 1.4 g | OO | H2O2
reactant | water | 40 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-amino-4-cyano-3-(dipropylamino)isothiazole | 7.0 g | NC1=C(C(=NS1)N(CCC)CCC)C#N | C10H16N4S
